US03966783
4-Benzoylbutryl chloride (assumed to be 0.005 mole) and ferrocene (0.97g; 0.005 mole) in dry methylene chloride (25 ml) were stirred at 0°-5° and aluminium chloride (1.04g; 0.011 mole) was added. The mixture was stirred at room temperature for 30 minutes, ice was added slowly and the organic fraction was separated. The aqueous fraction was extracted with chloroform and the combined organic fractions were washed with water, dried (magnesium sulphate) and evaporated. The resulting oil was purified by column chromatography on silica using 9:1 petroleum ether: ethyl acetate as eluent to yield a yellow solid which was recrystallised from petroleum ether to yield pure 4-benzoylbutyrylferrocene mp 96° (3%).

reactant | 4-Benzoylbutryl chloride | 0.005 mole | C(C1=CC=CC=C1)(=O)CCCC(=O)Cl | C11H11ClO2
reactant | ferrocene | 0.005 mole, 0.97g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | aluminium chloride | 0.011 mole, 1.04g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-benzoylbutyrylferrocene | 3% | C(C1=CC=CC=C1)(=O)CCCC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C16H15O2.C5H5.Fe/c17-15(13-7-2-1-3-8-13)11-6-12-16(18)14-9-4-5-10-14;1-2-4-5-3-1;/h1-5,7-10H,6,11-12H2;1-5H;/q2*-1;+2
